US05744488
Methyl 5-(2-benzyloxycarbonylaminoethyl)-3-(1H-imidazol-1-ylmethyl)-2-methyl-1H-indole-1-propanoate
Diphenylphosphoryl azide (0.744 g) was added to a mixture of methyl 5-(2-carboxyethyl)-3-(1H-imidazol-1-ylmethyl)-2-methyl-1H-indole-1-propanoate (1.0 g) and triethylamine (0.274 g) in dry dioxan (5 ml) at 50° C. The solution was then heated at 100° C. for 1 hour to give a clear solution. Benzyl alcohol (0.352 g) was added and the solution was heated at 1000° C. for a further 20 hours and then evaporated. The residue was partitioned between ethyl acetate and sodium bicarbonate solution. The organic layer was separated, washed with brine and dried (MgSO4). The solvent was evaporated and the residue was chromatographed on silica gel using dichloromethane/methanol (97:3) as eluent. The product fractions were combined and evaporated to give the title compound as a gum (0.41 g). Found: C,68.12; H,6.41; N,11.23. C27H30N4O4 requires: C,68.33; H,6.37; N,11.81%.

reactant | Diphenylphosphoryl azide | 0.744 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | methyl 5-(2-carboxyethyl)-3-(1H-imidazol-1-ylmethyl)-2-methyl-1H-indole-1-propanoate | 1.0 g | C(=O)(O)CCC=1C=C2C(=C(N(C2=CC1)CCC(=O)OC)C)CN1C=NC=C1 | C20H23N3O4
reactant | triethylamine | 0.274 g | C(C)N(CC)CC | C6H15N
reactant | Benzyl alcohol | 0.352 g | C(C1=CC=CC=C1)O | C7H8O
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | Methyl 5-(2-benzyloxycarbonylaminoethyl)-3-(1H-imidazol-1-ylmethyl)-2-methyl-1H-indole-1-propanoate | 0.41 g | C(C1=CC=CC=C1)OC(=O)NCCC=1C=C2C(=C(N(C2=CC1)CCC(=O)OC)C)CN1C=NC=C1 | C27H30N4O4
